US04874775
N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)trifluoromethanesulfonamide
A 3.7 g. portion of 3-(2,4-difluorophenylaminomethyl)pyridine was dissolved in dichloromethane with stirring, and cooled to -15°. To it were added 2.76 g. of potassium carbonate and, dropwise, 3.4 ml. of trifluoromethanesulfonic anhydride. The mixture was stirred overnight while it warmed to ambient temperature, and it was then extracted with aqueous sodium bicarbonate, dried over magnesium sulfate, and evaporated under vacuum. The residue was dissolved in chloroform and chromatographed over silica gel, eluting with chloroform. The product-containing fractions were collected and evaporated, and the residue was re-chromatographed over silica gel, eluting with chloroform, to obtain 1.43 g. of the desired product.

reactant | 3-(2,4-difluorophenylaminomethyl)pyridine | FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1 | C12H10F2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)trifluoromethanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)C(F)(F)F)CC=1C=NC=CC1 | C13H9F5N2O2S
